US06034127
b) 2-Chlorobenzenesulfonic acid3-[(3-amidinophenyl)methoxy]-5-methyl-phenyl ester hydrochloride
To a solution of 2-chlorobenzenesulfonic acid 3-[(3-cyanophenyl) methoxy]-5-methylphenyl ester (207 mg, 0.5 mmol), as prepared in the preceding step, in methylene chloride (10 mL) was added 37% HCl in ethanol (10 mL) at 0° C. The mixture was allowed to stand at 0° C. for 3 days. The solvent was evaporated in vacuo and the residue was co-evaporated with methylene chloride several times. The residue was dissolved in ethanol (10 mL) and ammonium carbonate (192 mg, 2.0 mmol) was added at 0° C. The mixture was stirred at room temperature overnight. Methylene chloride (150 mL) was added to the mixture. The methylene chloride solution was washed with 10% K2CO3 (2×50 mL) and dried over K2CO3. The solvent was removed in vacuo, HCl in methanol (30 mL) was added, and the solvent again removed in vacuo. The residue was purified by flash chromatography (10% methanol in methylene chloride) to give the title compound as a white solid (112 mg, 48%). 1H-NMR (300 MHz, DMSO-d6) δ 2.23 (s, 3H), 5.11 (s, 2H), 6.54 (s, 1H), 6.56 (s, 1H), 6.88 (s, 1H), 7.58 (t, 1H, J=6.5 Hz), 7.61 (t, 1H, J=12.2 Hz), 7.66 (d, 1H, J=3.9 Hz),7.73-7.95 (m, 5H), and 9.40 (br s, 4H). Mass spectrum (MALDI-TOF, sinapinic acid matrix) calcd. for C21H19N2O4SCl: 431.1 (M+H), 453.1 (M+Na). Found: 431.0,452.9.

reactant | 2-chlorobenzenesulfonic acid 3-[(3-cyanophenyl) methoxy]-5-methylphenyl ester | 0.5 mmol, 207 mg | C(#N)C=1C=C(C=CC1)COC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | C21H16ClNO4S
reactant | HCl | Cl | ClH
reactant | ammonium carbonate | 2.0 mmol, 192 mg | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | Methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 2-Chlorobenzenesulfonic acid3-[(3-amidinophenyl)methoxy]-5-methyl-phenyl ester hydrochloride | 112 mg, 48% | Cl.C(N)(=N)C=1C=C(C=CC1)COC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | InChI=1S/C21H19ClN2O4S.ClH/c1-14-9-17(27-13-15-5-4-6-16(11-15)21(23)24)12-18(10-14)28-29(25,26)20-8-3-2-7-19(20)22;/h2-12H,13H2,1H3,(H3,23,24);1H
